US08530663B2
4-(3-Hydroxymethylthiophen-2-yl)piperidine-1-carboxylic Acid t-Butyl Ester
A solution of 4-(3-methoxycarbonylthiophen-2-yl)piperidine-1-carboxylic acid t-butyl ester (3.8 g, 12 mmol, 1.0 eq.) in THF (70 mL) was degassed and purged with nitrogen (2×). Borane dimethyl sulfide complex (45 mL, 90 mmol, 110 eq.) was added at room temperature and the mixture was heated to reflux for 3 hours. The mixture was allowed to cool to room temperature and MeOH (20 mL) was slowly added. The mixture was then concentrated under vacuum. The addition of MeOH (20 mL) and concentrating was repeated two additional times. The crude material was applied onto a silica gel column and purified by chromatography with PE/EtOAc (10:1). The product was then purified by preparative HPLC to yield the title compound (1.8 g) as a white solid.

reactant | 4-(3-methoxycarbonylthiophen-2-yl)piperidine-1-carboxylic acid t-butyl ester | 12 mmol, 3.8 g, 1.0 eq. | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1SC=CC1C(=O)OC | C16H23NO4S
reactant | MeOH | 20 mL | CO | CH4O
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 4-(3-Hydroxymethylthiophen-2-yl)piperidine-1-carboxylic Acid t-Butyl Ester | 1.8 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1SC=CC1CO | C15H23NO3S
